US07521427B2
Cbz-Leu-D-Phe-VS-Ph was prepared from Cbz-Leu-OH and D-Phe-VS-Ph.HCl using standard mixed anhydride coupling method, yield 81%. 1H-NMR (CDCl3) δ 0.8-0.9 (2d, 6H, 2×Leu-CH3), 1.4-1.6 (m, 2H, Leu-CH2), 2.06 (m, 1H, Leu-CH), 2.9-3.0 (m, 2H, CH2-Phe), 3.9-4.0 (m, 1H, α-H), 4.8-4.9 (b, 1H, α-H), 4.9-5.0 (m, 1H, NH), 5.1 (m, 2H, Cbz), 6.3-6.4 (d & b, 2H, NH and CH═), 6.9-7.0 (dd, 1H, CH═), 7.1-7.4 (m, 10H, 2×Ph), 7.5-7.7 (m, 5H, SO2-Ph). MS (ESI) m/z 535.

reactant | Cbz-Leu-OH | N([C@@H](CC(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H19NO4
reactant | Phenyl-(3R)-3-amino-4-phenylbut-1-enyl Sulfone Hydrochloride | Cl.C1(=CC=CC=C1)C([C@H](C=CS(=O)(=O)C=C[C@@H](C(C1=CC=CC=C1)C1=CC=CC=C1)N)N)C1=CC=CC=C1
product | Phenyl-(3R)-3-(N-carbobenzyloxyleucyl)amino-4-phenylbut-1-enyl Sulfone | yield 81% | C1(=CC=CC=C1)C([C@H](C=CS(=O)(=O)C=C[C@@H](C(C1=CC=CC=C1)C1=CC=CC=C1)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)C1=CC=CC=C1 | C60H66N4O8S
